US09388167B2
To CuF(PPh3)3 methanol solvate (0.137 g) and (RP)-1-[(R)-α-(dimethylamino)-2-(diphenylphosphino)benzyl]-2-diphenylphosphinoferrocene (0.100 g) was added tetrahydrofuran (14 mL). The mixture was stirred at 0-5° C. (under argon) for 30 minutes until all solids were dissolved. To this solution was then added phenyl silane (0.789 g). After 10 minutes, a solution of 5-fluoro-4-vinylpyrimidine (0.903 g) and 2-chloro-1-(2,4-difluorophenyl)ethanone (1.68 g) in tetrahydrofuran (22 mL) was added over 30 minutes. The reaction mixture was stirred for 1 hour at 0-5° C. after which no further 5-fluoro-4-vinylpyrimidine was observable by HPLC. The reaction was quenched by addition of aqueous ammonium chloride (1 M, 15 mL), followed by methyl tert-butyl ether (30 mL). The organic layer was dried to a residue which was then subjected to purification by column chromatography (eluting with 5-40% ethyl acetate in cyclohexane) to give (2R,3S)-1-chloro-2-(2,4-difluorophenyl)-3-(5-fluoropyrimidin-4-yl)butan-2-ol as a white solid (1.70 g, 74% yield).

reactant | phenyl silane | 0.789 g | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | 5-fluoro-4-vinylpyrimidine | 0.903 g | FC=1C(=NC=NC1)C=C | C6H5FN2
reactant | 2-chloro-1-(2,4-difluorophenyl)ethanone | 1.68 g | ClCC(=O)C1=C(C=C(C=C1)F)F | C8H5ClF2O
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
catalyst | (RP)-1-[(R)-α-(dimethylamino)-2-(diphenylphosphino)benzyl]-2-diphenylphosphinoferrocene | 0.100 g | CN(C)[C@H](C1=CC(=CC=C1)P(C2=CC=CC=C2)C3=CC=CC=C3)[C]4[CH][CH][CH][C]4P(C5=CC=CC=C5)C6=CC=CC=C6.[CH]1[CH][CH][CH][CH]1.[Fe]
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | (2R,3S)-1-chloro-2-(2,4-difluorophenyl)-3-(5-fluoropyrimidin-4-yl)butan-2-ol | 1.70 g, 74% yield | ClC[C@]([C@@H](C)C1=NC=NC=C1F)(O)C1=C(C=C(C=C1)F)F | C14H12ClF3N2O
